data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_45308_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C@@:3]1([H:8])/[C:4](=[N:6]\[H:7])[C:5]1([H:11])[H:12])([H:9])[H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3](/[C:4](=[N:6]/[H:7])[H:8])=[C:5]([H:11])[H:12])([H:9])[H:10],72.7209749999868
MR_308055_1,[C:1]1([C:3]([N:5]([C:4]([H:15])([H:16])[H:17])[C:6](=[O:8])[H:14])([H:12])[H:13])([H:9])[C:2]([H:10])([H:11])[O:7]1>>[C:1]1([C:3]([N:5]([C:4]([H:15])([H:16])[H:17])[C:6](=[O:8])[H:14])([H:12])[H:13])([H:9])[C:2]([H:10])([H:11])[O:7]1,64.26980500002941
MR_55158_0,[C:1](/[C:3]([N:4]([H:8])[H:9])=[N:7]/[H:10])(/[C:5](=[N:6]/[C:2]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12]>>[C:1](=[C:5]([N:6]([C:2]([H:14])([H:15])[H:16])/[C:3]([N:4]([H:8])[H:9])=[N:7]/[H:10])[H:13])([H:11])[H:12],71.3348274999909
MR_203482_1,[C:1]([N:4]([C:2]([H:16])([H:17])[H:18])[C:3]([H:15])([H:19])[H:20])([N:8]=[C:5]([N:6]([H:11])[H:12])[N:7]([H:9])[H:10])([H:13])[H:14]>>[C:1](=[N:8][C:5]([N:4]([C:2]([H:16])([H:17])[H:18])[C:3]([H:15])([H:19])[H:20])([N:6]([H:11])[H:12])[N:7]([H:9])[H:10])([H:13])[H:14],65.60889000000145
MR_134608_0,[C:1](/[C:3]([O:5][H:8])=[N:6]/[N:7]=[C:4](\[C:2]([H:13])([H:14])[H:15])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:3]1([O:5][H:8])[C:4]([C:2]([H:13])([H:14])[H:15])([H:9])[N:7]=[N:6]1)([H:10])([H:11])[H:12],66.47672250002188
MR_277270_1,[C:1]1([C:3]([H:14])([H:15])[H:16])([H:9])[N:4](/[C:6](=[N:7]/[C:2]([H:11])([H:12])[H:13])[H:10])[N:5]1[H:8]>>[C:1](=[C:3]([H:14])[H:15])([N:5](/[N:4]=[C:6](\[N:7]([C:2]([H:11])([H:12])[H:13])[H:16])[H:10])[H:8])[H:9],28.54309249998749
MR_7194_0,[C:1](/[C:4]([C:2]([H:12])([H:13])[H:14])=[C:5](/[C:3]([H:15])([H:16])[H:17])[H:11])([O:6][O:7][H:8])([H:9])[H:10]>>[C:1](=[C:4]([C:2]([H:12])([H:13])[H:14])[C:5]([C:3]([H:15])([H:16])[H:17])([O:6][O:7][H:8])[H:11])([H:9])[H:10],47.81361749998695
MR_35995_0,[C:1](/[C:6](=[C:3](/[C:2]([N:4]([H:8])[H:9])=[O:7])[N:5]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:6]1([H:12])[C:3]([N:5]([H:10])[H:11])=[C:2]([N:4]([H:8])[H:9])[O:7]1)([H:13])([H:14])[H:15],62.38605000000575
MR_78467_0,[C:1]([c:4]1[c:5]([H:9])[n:2]([H:8])[c:3](=[O:7])[o:6]1)([H:10])([H:11])[H:12]>>[C:1]([C:4]([C@:5]1([H:9])[N:2]([H:8])[C:3]1=[O:7])=[O:6])([H:10])([H:11])[H:12],57.08242000002016
MR_148925_1,[C:1]([C:6]([C:2]([H:14])([H:18])[H:19])[C:4](/[C:5]([N:7]([H:11])[H:12])=[C:8](/[C:3]([H:20])([H:21])[H:22])[H:13])[O:9][H:10])([H:15])([H:16])[H:17]>>[C:1]([C:6]1([C:2]([H:14])([H:18])[H:19])[C:4]([O:9][H:10])=[C:5]([N:7]([H:11])[H:12])[C@@:8]1([C:3]([H:20])([H:21])[H:22])[H:13])([H:15])([H:16])[H:17],41.16086249998333
MR_71646_1,[C:1]([O:6][C:2]1([H:11])[C:4]([H:15])([H:16])[C:3]([H:13])([H:14])[C:5]1([O:8][H:9])[H:12])(=[O:7])[H:10]>>[C:1]1([O:7][H:9])([H:10])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:2]([C:5](=[O:8])[H:12])([H:11])[O:6]1,64.46872250002656
MR_335083_1,[N:1]([C:2]([N:3]([H:9])[H:10])=[O:6])([O:5][C:4](=[O:7])[H:11])[H:8]>>[N:1]1([H:8])[C:2]([N:3]([H:9])[H:10])([O:6][C:4](=[O:7])[H:11])[O:5]1,58.78357249996981
MR_483631_1,[C:1]([C:6]([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])=[O:9])([C:7]([C:4]([H:19])([H:20])[H:21])=[O:10])([O:8][H:11])[H:12]>>[C:1]([C:6]([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])([C:7]([C:4]([H:19])([H:20])[H:21])=[O:10])[O:9][H:11])(=[O:8])[H:12],45.5652850000277
MR_191768_1,[C:1]([C:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:8])=[O:7])([O:5][H:9])([O:6][H:10])[H:11]>>[C:1]([C:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:8])([O:7][H:9])[H:11])(=[O:5])[O:6][H:10],44.38684000000677
MR_569716_2,[C:1]([C:5]([C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[O:8][H:9])(=[O:6])[O:7][H:10]>>[C:1]([C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[H:12])([C:5]([C:3]([H:13])([H:14])[H:15])=[O:8])([O:6][H:9])[O:7][H:10],54.40048500001424
MR_265307_1,[C@:1]([C:2]([H:16])([H:17])[H:18])([N:3]([N:4]([H:11])[H:12])/[C:6](=[N:8]\[N:5]([H:13])[H:14])[H:15])([O:7][H:9])[H:10]>>[C:1]([C:2]([H:16])([H:17])[H:18])([O:7][H:9])([N:8]([N:5]([H:13])[H:14])/[C:6](=[N:3]/[N:4]([H:11])[H:12])[H:15])[H:10],63.89330500001691
MR_209420_0,[C:1](/[N:7]=[C:3](/[C:4]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])[N:5]([H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:7]1[C:3]([N:5]([H:8])[H:9])=[C:4]([C:2]([H:13])([H:14])[H:15])[C:6]1([H:16])[H:17])([H:10])([H:11])[H:12],50.32675499999101
MR_357153_0,[C@:1]1([N:4]([C:5]([C:2]([H:11])([H:12])[H:13])=[O:7])[H:9])([H:10])[N:3]([H:8])[O:6]1>>[C:1](\[N:3]([O:6][C:5]([C:2]([H:11])([H:12])[H:13])=[O:7])[H:8])(=[N:4]\[H:9])[H:10],60.900757499974816
MR_331577_1,[N:1]1([H:11])[C:3]2([C:2]([O:6][H:10])=[O:9])[N:7]1[C:4]([N:5]([H:12])[H:13])=[N:8]2>>[n:1]1([H:11])[c:3]([C:2]([O:6][H:10])=[O:9])[n:8][c:4]([N:5]([H:12])[H:13])[n:7]1,10.248329999985655
MR_416024_0,[C@:1]([C:3]([H:15])([H:16])[H:17])([N:4]([N:5]([H:10])[H:11])[O:7][H:8])([O:6][C:2]([H:12])([H:13])[H:14])[H:9]>>[C@@:1]([C:3]([H:15])([H:16])[H:17])([N:4]([N:5]([H:10])[H:11])[O:6][C:2]([H:12])([H:13])[H:14])([O:7][H:8])[H:9],56.77620000000857
